US07629342B2
To a round bottom flask was added N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)propionohydrazide (45 mg, 0.0794 mmol) and toluene (3 ml). The reaction was heated to 130° C. and stirred at this temperature for 1 hr. After this time, POCl3 (1 ml) was added and the reaction mixture was stirred at 130° C. for additional 4 hrs. The reaction was then cooled to rt and concentrated under reduced pressure. The residue was dissolved in EtOAc (30 ml) and the resulting solution was washed with 0.5N NaOH (10 ml), water (15 ml), saturated aqueous NaCl (10 mL). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was purified using an automated column chromatography system (ISCO, 4 gm silica gel) eluting with a gradient of 65%-100% EtOAc/Hex to give product 4-(8-(4-chlorophenyl)-3-ethyl-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile (30 mg) as off-white solid. 69% yield. HPLC retention time (method A) 3.110 min; LCMS (M+H)=549.4. 1HNMR (CDCl3, 500 Hz): 7.49-7.53 (3H, m), 7.35-7.37 (1H, m), 7.22-7.24 (6H, m), 5.57 (2H, s), 2.73 (2H, q), 2.65 (3H, s), 1.38 (3H, t); 13CNMR (CDCl3, 500 Hz) 159.8, 155.7, 148.6, 147.5(q), 143.9, 138.0, 137.1, 136.6, 133.5, 131.9, 131.8, 128.9, 120.8(q), 118.6, 118.2, 112.6, 49.2, 22.2, 20.5, 12.4.

reactant | N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)propionohydrazide | 0.0794 mmol, 45 mg | ClC1=CC=C(C=C1)C=1C(=NN(C(C1C1=CC=C(C=C1)C#N)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)NNC(CC)=O | C28H22ClF3N6O2
reactant | POCl3 | 1 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(8-(4-chlorophenyl)-3-ethyl-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 30 mg, 69% yield | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=C(C#N)C=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)CC | C28H20ClF3N6O
